US04083844
The 3-chloro-5-bromo-4-amino-azobenzene used in the present Example was obtained by bromination of 3-chloro-4-amino-azobenzene in methanol at 20°-25° C; melting point 152°-153° C.

reactant | 3-chloro-5-bromo-4-amino-azobenzene | ClC=1C=C(C=C(C1N)Br)N=NC1=CC=CC=C1 | C12H9BrClN3
solvent | methanol | CO | CH4O
product | 3-chloro-4-amino-azobenzene | ClC=1C=C(C=CC1N)N=NC1=CC=CC=C1 | C12H10ClN3
